US04022795
2-Chloropyridine (22.7 parts), benzyltriethylammonium chloride (8.0 parts), 3% palladium on charcoal (50% paste; 4.0 parts), sodium formate (20.4 parts) and sodium hydroxide liquor (32%; 27 parts) in water (60 parts) stirred at the boil under reflux for 4 hours. Sodium formate (6.8 parts) is then added tha the mixture held at the boil under reflux for a further 24 hours. The reaction mixture is cooled and then filtered. The residue is washed with ether (75 parts) and then the filtrate extracted with ether (2 × 70 parts). The combined ether extracts are dried over anhydrous magnesium sulphate. After removal of the drying agent the ether is distilled off. The residue is distilled under vacuum and the fraction b.pt. 150°-154° C./20 mm is collected giving 8.1 parts (51.9%) of 2,2'-bipyridyl.

reactant | 2-Chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
product | 2,2'-bipyridyl | 51.9% | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
